US07226918B2
6-Bromo-2-morpholin-4-yl-chromen-4-one (Compound 308)
Prepared from 6-Bromo-2-ethylsulfanyl-chromen-4-one (0.375 g, 1.35 mmol) and morpholine (0.54 ml, 6.25 mmol), affording a pale yellow solid. (0354 g, 1.14 mmol, 84%); m.p. 147-149° C.; ES+(m/e)=310.24 (M++1); (200 MHz, CDCl3) δ 3.44 (4H, m); 3.77 (4H, m); 5.42 (1H, s); 7.11 (1H, d); 7.57 (1H, dd); 8.20 (1H, d)

reactant | 6-Bromo-2-ethylsulfanyl-chromen-4-one | 1.35 mmol, 0.375 g | BrC=1C=C2C(C=C(OC2=CC1)SCC)=O | C11H9BrO2S
reactant | morpholine | 6.25 mmol, 0.54 ml | N1CCOCC1 | C4H9NO
product | 6-Bromo-2-morpholin-4-yl-chromen-4-one | BrC=1C=C2C(C=C(OC2=CC1)N1CCOCC1)=O | C13H12BrNO3
